US05366989
In 20 ml of dried tetrahydrofuran was suspended 0.97 g of zinc. To the suspension was dropwise added 3.0 g of ethyl bromodifluoroacetate under reflux. Then, 10 ml of a solution of 2.2 g of 2,2',4'-trichloroacetophenone dissolved in dried tetrahydrofuran was dropwise added under reflux. The resulting mixture was refluxed for 10 minutes. The insolubles were removed by filtration. The solvent was removed by distillation under reduced pressure. To the residue obtained were added 20 ml of ethyl acetate and 20 ml of water. The resulting solution was adjusted to pH 1.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: n-hexane/toluene=1/2) to obtain 1.8 g of oily ethyl 4-chloro-3-(2,4-dichlorophenyl)-2,2-difluoro-3-hydroxybutyrate.

reactant | ethyl bromodifluoroacetate | 3.0 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | 2,2',4'-trichloroacetophenone | 2.2 g | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | zinc | 0.97 g | [Zn] | Zn
solvent | water | 20 ml | O | H2O
product | ethyl 4-chloro-3-(2,4-dichlorophenyl)-2,2-difluoro-3-hydroxybutyrate | 1.8 g | ClCC(C(C(=O)OCC)(F)F)(O)C1=C(C=C(C=C1)Cl)Cl | C12H11Cl3F2O3
